US04731368
Step A: Preparation of 2-Sulfamoyl-4-chlorothieno[3.2-c]pyridine
To a solution of 4-chlorothieno[3,2-c]pyridine (1.7 g, 10 mmol) in distilled tetrahydrofuran (25 ml), cooled to -70° C. and under a nitrogen atmosphere, was added dropwise 0.7 M lithium diisopropylamide in THF (16 ml, 11 mmol) to give a clear solution. After 178 hour, sulfur dioxide gas was bubbled over the reaction surface and it was gradually let warm to room temperature. The mixture was diluted with diethyl ether and the precipitated lithium sulfinate salt was collected by filtration. This salt (3.1 g) was dissolved in water (25 ml) and sodium acetate trihydrate (5.4 g, 66 mmol) and hydroxylamine-O-sulfonic acid (2.5 g, 22 mmol) were added. After stirring for 18 hours, the precipitated product was collected by filtration, dissolved in ethyl acetate, dried over anhydrous sodium sulfate, filtered through a pad of charcoal and the solvent was evaporated. The residue was recrystallized from ethyl acetate to give 1.23 g (49% yield) purified product.

reactant | 4-chlorothieno[3,2-c]pyridine | 10 mmol, 1.7 g | ClC1=NC=CC2=C1C=CS2 | C7H4ClNS
reactant | lithium diisopropylamide | 0.7 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | sodium acetate trihydrate | 66 mmol, 5.4 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 22 mmol, 2.5 g | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 11 mmol, 16 ml | C1CCOC1 | C4H8O
product | 2-Sulfamoyl-4-chlorothieno[3.2-c]pyridine | 49% yield | S(N)(=O)(=O)C1=CC=2C(=NC=CC2S1)Cl | C7H5ClN2O2S2
